* source PROJECT_PARTEA1
D_D1         N86414 N86410 D1N4148_1 
D_D2         N86410 N86414 D1N4148_1 
R_R16         0 N86646  400 TC=0,0 
C_C1         0 N86576  33n  TC=0,0 
Q_Q1         N86384 N86384 N867841 QBC846B 
Q_Q2         N86678 N86384 N86870 QBC846B 
Q_Q5         N86320 N86280 N861481 QBC856B 
R_R10         N86896 N86410  10k TC=0,0 
R_R3         N861481 N86094  200 TC=0,0 
R_R6         N86896 N86870  1k TC=0,0 
X_R12         0 0 N87136 POT PARAMS: SET=0.1 VALUE=50k
X_R14         N87066 N87066 N87078 POT PARAMS: SET=0.1 VALUE=50k
R_R2         N861681 N86094  200 TC=0,0 
R_R5         N86896 N867841  1k TC=0,0 
X_R15         N86428 N86428 N86646 POT PARAMS: SET=0.1 VALUE=50k
Q_Q7         N86094 N86320 N86410 QBC856B 
V_V2         0 N86896 11Vdc
R_R9         N86414 N86410  200 TC=0,0 
R_R7         0 N86586  1k TC=0,0 
Q_Q6         N86280 N86280 N861681 QBC856B 
R_R13         N87066 N86576  10 TC=0,0 
R_R1         N86200 N86094  1k TC=0,0 
R_R8         N86414 N86586  2k TC=0,0 
Q_Q3         N86320 N86576 N86678 QBC846B 
Q_Q4         N86280 N86586 N86678 QBC846B 
C_C2         N87078 N86410  33n  TC=0,0 
X_D3         N86200 0 LED PARAMS: IS=1.7603e-027 RS=2  BV=5 IBV=5e-6         
C_C3         N86410 N86428  10u  TC=0,0 
V_V1         N86094 0 11Vdc
R_R11         N87136 N86576  10 TC=0,0 
R_R4         N86384 N86094  4.7k TC=0,0 
