* source PROJECT_REFACUT2
V_V+         N72278 0 11Vdc
R_R7         0 N72526  1k TC=0,0 
Q_Q7         N72278 N72432 N72496 QBC856B 
R_R10         N72702 N72496  10k TC=0,0 
V_V-         0 N72702 11Vdc
C_C2         N72842 N72496  33n  TC=0,0 
Q_Q2         N72420 N72420 N723361 QBC856B 
Q_Q3         N72432 N72610 N72644 QBC846B 
R_R3         N723161 N72278  220 TC=0,0 
R_R2         N723361 N72278  220 TC=0,0 
Q_Q1         N72432 N72420 N723161 QBC856B 
Q_Q4         N72420 N72526 N72644 QBC846B 
R_R8         N80583 N72526  2k TC=0,0 
Q_Q5         N73537 N73537 N734071 QBC846B 
Q_Q6         N72644 N73537 N84413 QBC846B 
R_R4         N73537 N72278  4.7k TC=0,0 
R_R5         N72702 N734071  1k TC=0,0 
R_R6         N72702 N84413  1k TC=0,0 
C_C3         N72496 N81308  4.7u  TC=0,0 
C_C1         0 N72610  33n  TC=0,0 
X_R15         N76222 N76222 N72842 POT PARAMS: SET=1 VALUE=50k
X_R13         0 0 N76264 POT PARAMS: SET=1 VALUE=50k
R_R12         N76264 N72610  10 TC=0,0 
R_R14         N76222 N72610  10 TC=0,0 
R_R9         N80583 N72496  100 TC=0,0 
D_D1         N80583 N72496 D1N4148_1 
D_D2         N72496 N80583 D1N4148_1 
X_R11         N81308 N81308 N81096 POT PARAMS: SET=0.12 VALUE=50k
X_D3         N83986 0 LED PARAMS: IS=1.7603e-027 RS=2  BV=5 IBV=5e-6         
R_R1         N83986 N72278  1k TC=0,0 
R_R17         0 N105860  68 TC=0,0 
R_R16         N105860 N81096  330 TC=0,0 
